US07273868B2
A mixture of 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-methoxy-2-methylthiopyrimidine (prepared in the above (1)) 271 mg, a 2.0M aqueous sodium hydroxide solution 3.53 ml, water 2 ml and dimethyl sulfoxide 6 ml is stirred at 65° C. for 14 hours. After cooling the reaction mixture is neutralized with a 10% aqueous citric acid solution and extracted with ethyl acetate. The ethyl acetate layer is washed, dried and concentrated in vacuo and the resulting powder is triturated with isopropyl ether to give 4-(3-chloro-4-methoxybenzylamino)-5-carboxy-6-methoxy-2-methylthiopyrimidine as a colorless crystalline powder, 210 mg. mp 167-170° C.

reactant | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-methoxy-2-methylthiopyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)OC)SC)C=CC1OC | C16H18ClN3O4S
reactant | sodium hydroxide | 2.0M, 3.53 ml | [OH-].[Na+]
reactant | water | 2 ml | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
product | 4-(3-chloro-4-methoxybenzylamino)-5-carboxy-6-methoxy-2-methylthiopyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)O)OC)SC)C=CC1OC | C15H16ClN3O4S
